US05726165
(R)-5-(2-Aminopropyl)-1,3-benzodioxole-2,2-dicarboxylic acid, diethyl ester
A solution of (R)-5-(2-aminopropyl)-1,3-benzodioxole-2,2-dicarboxylic acid diethyl ester hydrochloride (646 mg, 2 mMol) in dichloromethane (80 ml) was shaken with a saturated solution of sodium hydrogen carbonate (20 ml) for 30 seconds. The organic layer was separated and the aqueous layer was extracted with dichloromethane (2×50 ml). The combined organic extracts were washed with water (50 ml) and brine (50 ml), dried (MgSO4). The solvent was evaporated giving the title compound which was used immediately.

reactant | (R)-5-(2-aminopropyl)-1,3-benzodioxole-2,2-dicarboxylic acid diethyl ester hydrochloride | 2 mMol, 646 mg | Cl.C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)N)C(=O)OCC
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (R)-5-(2-Aminopropyl)-1,3-benzodioxole-2,2-dicarboxylic acid, diethyl ester | N[C@@H](CC1=CC2=C(OC(O2)(C(=O)OCC)C(=O)OCC)C=C1)C | C16H21NO6
